US05378728
A mixture of 13.5 grams (68.1 mmoles) of 4-(1,1-difluoro-2,2-dimethylpropyl) toluene, 6.8 grams (170 mmoles) of sodium hydroxide and 21.5 grams (136 mmoles) of potassium permanganate in 250 ml. of 1:1 pyridine:water is heated to 95° C. and stirred for 4 hours. This suspension is filtered, and the residue is wash with 300 ml. of water and 400 ml. of ethyl acetate. The filtrate is concentrated in vacuo and then redissolved in 300 ml. of water. The aqueous solution is washed with 500 ml. of ethyl acetate and then acidified to pH2 with concentrated hydrochloric acid. This is extracted 3 times with 300 ml. of ethyl acetate, and the combined extracts are dried over magnesium sulfate and concentrated in vacuo to yield 4-(1,1-difluoro-2,2-dimethyl propyl)benzoic acid as a fine white powder. A portion of this material is recrystallized from diethyl ether to give colorless crystals of the acid (m.p. 196°-198° C.).

reactant | 4-(1,1-difluoro-2,2-dimethylpropyl) toluene | 68.1 mmoles, 13.5 grams | FC(C(C)(C)C)(F)C1=CC=C(C=C1)C | C12H16F2
reactant | sodium hydroxide | 170 mmoles, 6.8 grams | [OH-].[Na+]
reactant | potassium permanganate | 136 mmoles, 21.5 grams | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 4-(1,1-difluoro-2,2-dimethyl propyl)benzoic acid | FC(C(C)(C)C)(F)C1=CC=C(C(=O)O)C=C1 | C12H14F2O2
